US04652582
1-(4-Toluenesulfonyl)-2-bromo-4-(4-fluorophenyl)-5-(4-methylsulfonylphenyl)pyrrole
A solution of 1-(4-toluenesulfonyl)-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole (10.0 g, 0.021 mole) in 100 ml tetrahydrofuran was cooled in an ice bath and treated with N-bromosuccinimide (3.8 g, 0.021 mole) and stirred for five hours. The mixture was diluted with one liter of water and the resulting solid was collected by filtration, washed with water and dried. The crude product was recrystallized from ethyl acetate/hexane to yield 10.0 g (87% yield); m.p. 207°-207.5°.

reactant | 1-(4-toluenesulfonyl)-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole | 0.021 mole, 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1C(=C(C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C | C24H20FNO4S2
reactant | N-bromosuccinimide | 0.021 mole, 3.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | one liter | O | H2O
product | 1-(4-Toluenesulfonyl)-2-bromo-4-(4-fluorophenyl)-5-(4-methylsulfonylphenyl)pyrrole | 87% yield | C1(=CC=C(C=C1)S(=O)(=O)N1C(=CC(=C1C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F)Br)C | C24H19BrFNO4S2
